### PR TITLE
[Merged by Bors] - feat(SimpleGraph/FiveWheelLike): add the Andrásfai-Erdős-Sós theorem

### PR DESCRIPTION
**Pull request by jt496**
Add the Andrásfai-Erdős-Sós theorem `colorable_of_cliqueFree_lt_minDegree` which says that an `r + 1`-cliquefree graph `G` with sufficiently large minimum degree is `r`-colorable.

Co-authored-by: Lian Bremner Tattersall <lian.tattersall.20@alumni.ucl.ac.uk>

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

---

*This PR continues the work from #25313.*

*Original PR: https://github.com/leanprover-community/mathlib4/pull/25313*

### CODE REVIEW

File: Mathlib/Combinatorics/SimpleGraph/FiveWheelLike.lean [hunk 1]
```diff
@@ -219,4 +246,280 @@ theorem colorable_iff_isCompleteMultipartite_of_maximal_cliqueFree
...
+        have w3 : 3 ≤ #W := hw.three_le_card
+        have hap : #W - 1 + 2 * (k - 1) = #W - 3 + 2 * k := by omega
+        rw [hap, ← add_mul, card_add_card_compl, mul_comm, two_mul, ← add_assoc]
+        exact Nat.mul_le_mul_right _ (by omega)
+
+end IsFiveWheelLike
+
+variable [DecidableEq α]
+
+/-- **Andrasfái-Erdős-Sós**
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/FiveWheelLike.lean]:
```suggestion
/-- **Andrasfái-Erdős-Sós** theorem

```

**Review by YaelDillies — COMMENTED** [review]
Have you tried using `grind` in any of the proofs?

**Comment by jt496** [comment]
Thanks for looking at this!
I haven't had any success using `grind` in any of these proofs (although that is probably due to my lack of familiarity with it). Was there a particular place where I should be using it?

File: Mathlib/Combinatorics/SimpleGraph/FiveWheelLike.lean [hunk 2]
```diff
@@ -219,4 +246,281 @@ theorem colorable_iff_isCompleteMultipartite_of_maximal_cliqueFree
...
+  rw [compl_compl, tsub_zero, add_comm] at bdX
+  rw [Nat.le_div_iff_mul_le <| Nat.add_pos_right _ zero_lt_three]
+  have Wc : #W + k = 2 * r + 3 := hw.card_add_card_inter
+  -- The sum of the degree sum over `W` and twice the degree sum over `s ∩ t`
+  -- is at least `G.minDegree * (#W + 2 * #(s ∩ t))` which implies the result
+  calc
+    _ ≤ ∑ w ∈ W, G.degree w + 2 * ∑ w ∈ s ∩ t, G.degree w := by
+      simp_rw [add_assoc, add_comm k, ← add_assoc, ← Wc, add_assoc, ← two_mul, mul_add,
+               ← hw.card_inter, card_eq_sum_ones, ← mul_assoc, mul_sum, mul_one, mul_comm 2]
+      apply add_le_add <;> apply sum_le_sum <;> intro i _
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/FiveWheelLike.lean]: Can you use `gcongr` in such situations?
```suggestion
      gcongr with i
```
There are a few more occurrences scattered around

File: Mathlib/Combinatorics/SimpleGraph/FiveWheelLike.lean [hunk 3]
```diff
@@ -4,15 +4,19 @@ Released under Apache 2.0 license as described in the file LICENSE.
 Authors: John Talbot, Lian Bremner Tattersall
 -/
 import Mathlib.Combinatorics.SimpleGraph.CompleteMultipartite
+import Mathlib.Algebra.BigOperators.Ring.Finset
+import Mathlib.Algebra.Order.BigOperators.Group.Finset
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/FiveWheelLike.lean]:
```suggestion
import Mathlib.Algebra.BigOperators.Ring.Finset
import Mathlib.Algebra.Order.BigOperators.Group.Finset
import Mathlib.Combinatorics.SimpleGraph.CompleteMultipartite
```

File: Mathlib/Combinatorics/SimpleGraph/FiveWheelLike.lean [hunk 4]
```diff
@@ -219,4 +246,281 @@ theorem colorable_iff_isCompleteMultipartite_of_maximal_cliqueFree
...
+  rw [← filter_card_add_filter_neg_card_eq_card (s := s) (G.Adj x ·), add_tsub_assoc_of_le hx]
+  exact Nat.le_add_right ..
+
+variable [DecidableEq α]
+
+private lemma eq_of_card_le_two_of_ne (hab : a ≠ b) (had : a ≠ d) (hbc : b ≠ c)
+    (hc2 : #{a, b, c, d} ≤ 2) : c = a ∧ d = b := by
+  by_contra! hf
+  apply hc2.not_gt <| two_lt_card_iff.2 _
+  by_cases h : a = c <;> aesop
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/FiveWheelLike.lean]: Does `grind` help at all?

File: Mathlib/Combinatorics/SimpleGraph/FiveWheelLike.lean [hunk 5]
```diff
@@ -219,4 +246,281 @@ theorem colorable_iff_isCompleteMultipartite_of_maximal_cliqueFree
...
+  obtain ⟨d, hd, hdj⟩ := hw.isNClique_right.exists_not_adj_of_cliqueFree_succ hcf x
+  refine ⟨_, _, _, _, ha, haj, hb, hbj, hc, hcj, hd, hdj, ?_, ?_, ?_, ?_, ?_⟩
+    <;> rw [mem_insert] at * <;> try rintro rfl
+  · obtain (rfl | ha) := ha
+    · obtain (rfl | hb) := hb
+      · exact hw.isPathGraph3Compl.fst_ne_snd rfl
+      · exact hw.fst_notMem_right hb
+    · obtain (rfl | hb) := hb
+      · exact hw.snd_notMem_left ha
+      · exact haj <| hW <| mem_inter_of_mem ha hb
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/FiveWheelLike.lean]:
```suggestion
  · obtain (rfl | ha) := ha <;> obtain (rfl | hb) := hb
    · exact hw.isPathGraph3Compl.fst_ne_snd rfl
    · exact hw.fst_notMem_right hb
    · exact hw.snd_notMem_left ha
    · exact haj <| hW <| mem_inter_of_mem ha hb
```
Same below

**Review by YaelDillies — COMMENTED** [review]
I still feel a lot of potential for automation. It would be great if you could investigate this, but I understand that might be out of your depth.

File: Mathlib/Combinatorics/SimpleGraph/FiveWheelLike.lean [hunk 6]
```diff
@@ -310,37 +309,7 @@ private lemma exist_not_adj_of_adj_inter (hW : ∀ ⦃y⦄, y ∈ s ∩ t → G.
...
-      · exact hbj <| hW <| mem_inter_of_mem hc hb
-  · intro hat
-    obtain (rfl | ha) := ha
-    · exact hw.fst_notMem_right hat
-    · exact haj <| hW <| mem_inter_of_mem ha hat
-  · intro hbs
-    obtain (rfl | hb) := hb
-    · exact hw.snd_notMem_left hbs
-    · exact hbj <| hW <| mem_inter_of_mem hbs hb
+  exact ⟨_, _, _, _, ha, haj, hb, hbj, hc, hcj, hd, hdj, by grind⟩
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/FiveWheelLike.lean:282]: Wow! 😍

File: Mathlib/Combinatorics/SimpleGraph/FiveWheelLike.lean [hunk 7]
```diff
@@ -70,12 +79,15 @@ statements of results and match our definition of `IsFiveWheelLikeFree`.
 * [S. Brandt **On the structure of graphs with bounded clique number**
   https://doi.org/10.1007/s00493-003-0042-z][brandt2003]
 -/
+local notation "‖" x "‖" => Fintype.card x
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/FiveWheelLike.lean:83]:
```suggestion

local notation "‖" x "‖" => Fintype.card x
```

**Comment by jt496** [comment]
> I still feel a lot of potential for automation. It would be great if you could investigate this, but I understand that might be out of your depth.

Definitely out of my depth here!  I couldn't see any other results in the Combinatorics folder tagged with @[grind] so I just tried some things out, let me know if this is OK.

File: Mathlib/Combinatorics/SimpleGraph/FiveWheelLike.lean [hunk 8]
```diff
@@ -219,4 +247,212 @@ theorem colorable_iff_isCompleteMultipartite_of_maximal_cliqueFree
...
+  apply (Nat.le_div_iff_mul_le <| Nat.succ_pos _).2 <| (mul_le_mul_left (_ + 2).succ_pos).1 _
+  rw [← mul_assoc, mul_comm (2 * r + 2 + k + 3), mul_comm _ (_ * n)]
+  apply (Nat.mul_le_mul_right _ (Nat.div_mul_le_self ..)).trans
+  nlinarith
+
+private lemma eq_of_card_le_two_of_ne [DecidableEq α] (hab : a ≠ b) (had : a ≠ d) (hbc : b ≠ c)
+    (hc2 : #{a, b, c, d} ≤ 2) : c = a ∧ d = b := by
+  by_contra! hf
+  apply hc2.not_gt <| two_lt_card_iff.2 _
+  by_cases h : a = c <;> aesop
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/FiveWheelLike.lean]: These two lemmas are used exactly once: Have you considered inlining them?

File: Mathlib/Combinatorics/SimpleGraph/FiveWheelLike.lean [hunk 9]
```diff
@@ -219,4 +247,212 @@ theorem colorable_iff_isCompleteMultipartite_of_maximal_cliqueFree
...
+  -- Since `x` is not adjacent to `a` and `b` but is adjacent to all but at most two vertices
+  -- from `W` we have `∀ w ∈ W, w ≠ a → w ≠ b → G.Adj w x`
+  have wa : ∀ ⦃w⦄, w ∈ W → w ≠ a → w ≠ b → G.Adj w x := by
+    intro _ hz haz hbz
+    by_contra! hf
+    apply h2.not_gt
+    exact two_lt_card.2 ⟨_, by simp [has, hcj], _, by simp [hbt, hdj], _,
+                         mem_filter.2 ⟨hz, by rwa [adj_comm] at hf⟩, hab, haz.symm, hbz.symm⟩
+  have ⟨h1s, h2t⟩ : insert w₁ s ⊆ W ∧ insert w₂ t ⊆ W := by grind
+  -- We now check that we can build a `Wᵣ,ₖ₊₁` be inserting `x` and erasing `a` and `b`
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/FiveWheelLike.lean]:
```suggestion
  -- We now check that we can build a `Wᵣ,ₖ₊₁` by inserting `x` and erasing `a` and `b`
```

File: Mathlib/Combinatorics/SimpleGraph/FiveWheelLike.lean (hunk 8 above)
Comment (jt496) [reply Mathlib/Combinatorics/SimpleGraph/FiveWheelLike.lean]: now both inlined as well as a third lemma that was similarly used once

File: Mathlib/Combinatorics/SimpleGraph/FiveWheelLike.lean [hunk 10]
```diff
@@ -219,4 +237,207 @@ theorem colorable_iff_isCompleteMultipartite_of_maximal_cliqueFree
...
+    -- vertices i.e. `#((insert x (s.erase a)) ∩ (insert x (s.erase b))) = k + 1`.
+    rw [← insert_inter_distrib, erase_inter, inter_erase, erase_eq_of_notMem <|
+        notMem_mono inter_subset_left hbs, erase_eq_of_notMem <| notMem_mono inter_subset_right hat,
+        card_insert_of_notMem (fun h ↦ G.loopless _ (hW h)), hw.card_inter]
+
+/--
+If `G` is a `Kᵣ₊₂`-free graph with `n` vertices containing a `Wᵣ,ₖ` but no `Wᵣ,ₖ₊₁`
+then `G.minDegree ≤ (2 * r + k) * n / (2 * r + k + 3)`
+-/
+lemma minDegree_le_of_cliqueFree_FiveWheelLikeFree_succ [Fintype α]
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/FiveWheelLike.lean]:
```suggestion
lemma minDegree_le_of_cliqueFree_fiveWheelLikeFree_succ [Fintype α]
```

**Review by YaelDillies — APPROVED** [review]
Thanks!

maintainer delegate

File: Mathlib/Combinatorics/SimpleGraph/FiveWheelLike.lean [hunk 11]
```diff
@@ -219,4 +237,207 @@ theorem colorable_iff_isCompleteMultipartite_of_maximal_cliqueFree
...
+            wa ((insert_subset_insert _ fun _ hx ↦ (by simp [hx])) hz) hZ
+              fun h ↦ hbv <| (mem_insert.1 (h ▸ hz)).resolve_right hbs
+  · exact hw.isNClique_fst_left.insert_insert_erase has hw.fst_notMem fun _ hz hZ ↦
+            wa (h1s hz) hZ fun h ↦ hbw <| (mem_insert.1 (h ▸ hz)).resolve_right hbs
+  · exact hw.isNClique_right.insert_insert_erase hbt hw.notMem_right fun _ hz hZ ↦
+            wa ((insert_subset_insert _ fun _ hx ↦ (by simp [hx])) hz)
+              (fun h ↦ hav <| (mem_insert.1 (h ▸ hz)).resolve_right hat) hZ
+  · exact hw.isNClique_snd_right.insert_insert_erase hbt hw.snd_notMem
+            fun _ hz hZ ↦ wa (h2t hz) (fun h ↦  haw <| (mem_insert.1 (h ▸ hz)).resolve_right hat) hZ
+  · -- Finally check that this new `IsFiveWheelLike` structure has `k + 1` common clique
```
Comment (jcommelin) [inline Mathlib/Combinatorics/SimpleGraph/FiveWheelLike.lean]: Minor comment, but I would like to improve the robustness of this proof.

(If something in `grind` changes and it solves one more or one less goal, it might be hard to figure out which `exact` is closing which goal.)

Could you please give names to the goal, by using `?foobar` in the `refine`. And then select those goals with `case foobar => exact ...`.
That way it will be clear to Lean and future readers/maintainers what the relation is.

**Review by jcommelin — COMMENTED** [review]
One minor comment about improving robustness of a proof. Otherwise, LGTM.

bors d+

File: Mathlib/Combinatorics/SimpleGraph/FiveWheelLike.lean (hunk 11 above)
Comment (jt496) [reply Mathlib/Combinatorics/SimpleGraph/FiveWheelLike.lean]: Thanks! I've done this and also removed all uses of `<;> try tac` so it should now be clear exactly how each goal is closed.

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge

**Comment by sgouezel** [comment]
Can you merge master, fix the build, and then send it back to bors?
bors d+
